### PR TITLE
Add Erdős Problem 534 (Ahlswede–Khachatrian pairwise-gcd sets), link the formal proof

### LINKED ISSUE #6313: Erdős Problem 534
### What is the Erdős problem?

https://www.erdosproblems.com/534

What is the largest possible subset $A\subseteq\{1,\ldots,N\}$ which contains $N$ such that $\mathrm{gcd}(a,b)>1$ for all $a\neq b\in A$?

Status: resolved by Ahlswede–Khachatrian [AhKh96] (Erdős' refined conjecture: the maximum is attained by the multiples of one of $2q_1,\ldots,2q_j,q_1\cdots q_j$ for some $j$). A formal proof exists in plby/lean-proofs (`Erdos534.erdos_534`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6313.

### What changed
Adds `FormalConjectures/ErdosProblems/534.lean` with `IsAdmissible N A` (`A ⊆ [1, N]`, `N ∈ A`, pairwise `gcd > 1`), `maxCard N` (the largest admissible size) and the Ahlswede–Khachatrian sets `ahlswedeKhachatrian N q` (multiples in `[1, N]` of one of `2q₁, …, 2qⱼ, q₁⋯qⱼ` where `q₁ < ⋯ < qⱼ = q` are the prime factors of `N` up to `q`):
- `erdos_534` (`research solved`): for `N ≥ 2` some `ahlswedeKhachatrian N q` is admissible and has size `maxCard N` — Erdős' refined conjecture, proved by Ahlswede–Khachatrian [AhKh96]. Linked to plby/lean-proofs `Erdos534.erdos_534` (Codex and GPT-5.6 Sol; 7 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos534.erdos_534` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the definitions coincide by `rfl`; `maxCard` is handled via `csSup_le`/`le_csSup`):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge534

lemma isAdmissible_eq (N : ℕ) (A : Finset ℕ) :
    Erdos534.IsAdmissible N A = Erdos534Plby.Admissible N A := rfl

lemma ak_eq (N q : ℕ) : Erdos534.ahlswedeKhachatrian N q = Erdos534Plby.candidate N q := rfl

theorem erdos_534_bridge : type_of% Erdos534.erdos_534 := by
  intro N hN
  obtain ⟨q, hq, hadm, hmax⟩ := Erdos534Plby.erdos_534 N hN
  refine ⟨q, hq, hadm, ?_⟩
  apply le_antisymm
  · refine csSup_le ⟨_, _, hadm, rfl⟩ ?_
    rintro n ⟨A, hA, rfl⟩
    exact hmax A hA
  · refine le_csSup ⟨N + 1, ?_⟩ ⟨_, hadm, rfl⟩
    rintro n ⟨A, hA, rfl⟩
    exact (Finset.card_le_card hA.1).trans (by simp)

#print axioms Erdos534Plby.erdos_534
#print axioms erdos_534_bridge

end Bridge534
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«534»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/534.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/534.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
